US05461066
2.5 g of N-diaminomethylene-3-methylsulphonyl-4-(4-aminopiperidino)benzamide (m.p. 239°-241°) are suspended in 75 ml of water, and 14.7 ml of 1N HCl are added, while stirring, to this suspension. After removing the solvent and lyophilizing, N-diaminomethylene-3-methylsulphonyl-4-(4-aminopiperidino)benzamide dihydrochloride is obtained, m.p. >260°.

reactant | N-diaminomethylene-3-methylsulphonyl-4-(4-aminopiperidino)benzamide | 2.5 g | NC(=NC(C1=CC(=C(C=C1)N1CCC(CC1)N)S(=O)(=O)C)=O)N | C14H21N5O3S
reactant | HCl | 1N, 14.7 ml | Cl | ClH
solvent | water | 75 ml | O | H2O
product | N-diaminomethylene-3-methylsulphonyl-4-(4-aminopiperidino)benzamide dihydrochloride | Cl.Cl.NC(=NC(C1=CC(=C(C=C1)N1CCC(CC1)N)S(=O)(=O)C)=O)N | InChI=1S/C14H21N5O3S.2ClH/c1-23(21,22)12-8-9(13(20)18-14(16)17)2-3-11(12)19-6-4-10(15)5-7-19;;/h2-3,8,10H,4-7,15H2,1H3,(H4,16,17,18,20);2*1H
